US04766225
The 2,2'-bis(diarylphosphino)-6,6'-dimethylbiphenyl as a ligand of the complex of the present invention can be synthesized according to the process reported in Miyashita et al., The Chemical Society of Japan, Collected Drafts II for Lectures in the 52th spring Annual Meeting, IT06, p. 1267 (1986). More specifically, o-toluidine is reacted with nitric acid to form 2-amino-3-methylnitrobenzene, which is then converted to 2-iodo-3-methylnitrobenzene making use of the process described in P. B. Carlin et al., J. Am. Chem. Soc., Vol. 78, p. 1997 (1956). A copper powder is reacted on the resulting product to obtain 2,2'-dinitro-6,6'-dimethylbiphenyl, which is then subjected to hydrogenation using a Raney nickel as a catalyst to obtain 2,2'-diamino-6,6'-dimethylbiphenyl. The product is treated with a 47% hydrobromic acid aqueous solution to obtain 2,2'-dibromo-6,6'-dimethylbiphenyl. A Grignard reagent is prepared from the product according to a process generally employed therefor, for example, by using magnesium. The resulting Grignard reagent is condensed with a diarylphosphinyl chloride selected from diphenylphosphinyl chloride, di-p-tolylphosphinyl chloride, and di-p-anisylphosphinyl chloride to obtain a (±)-2,2'-bis(diarylphosphino)-6,6'-dimethylbenzyl. The product is resolved by using benzoyl tartrate and then reduced with trichlorosilane to obtain an optically active 2,2'-bis(diarylphosphino)-6,6'-dimethylbiphenyl. Starting with the thus prepared optically active 2,2'-bis(diarylphosphino)-6,6'-dimethylbiphenyl, there can be obtained the ruthenium-phosphine complex of the present invention having the corresponding optical activity.

reactant | 2-iodo-3-methylnitrobenzene | IC1=C(C=CC=C1C)[N+](=O)[O-] | C7H6INO2
catalyst | copper | [Cu] | Cu
product | 2,2'-dinitro-6,6'-dimethylbiphenyl | [N+](=O)([O-])C1=C(C(=CC=C1)C)C1=C(C=CC=C1C)[N+](=O)[O-] | C14H12N2O4
